US06093732
N-(4-Chlorobenzyl)-4-hydroxy-6-[(2-hydroxyethyl)amino]-3-quinolinecarboxamide
To a flask containing ethyl 6-{[2-(acetyloxy)ethyl]amino)-4-hydroxy-3-quinolinecarboxylate (0.04 g) is added p-chlorobenzylamine (0.5 mL). The reaction is tightly capped and heated to 160° C. overnight. The reaction is cooled to room temperature, adsorbed onto silica and chromatographed on silica eluting with 3% to 10% methanol in dichloromethane. The product-containing fractions are evaporated to give 0.02 g of the title compound as a yellow solid.

reactant | ethyl 6-{[2-(acetyloxy)ethyl]amino)-4-hydroxy-3-quinolinecarboxylate | 0.04 g | C(C)(=O)OCCNC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)O | C16H18N2O5
reactant | p-chlorobenzylamine | 0.5 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-Chlorobenzyl)-4-hydroxy-6-[(2-hydroxyethyl)amino]-3-quinolinecarboxamide | 0.02 g | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)NCCO)C=C1 | C19H18ClN3O3
